US07196086B2
1-(3,4-Difluorophenyl)piperazine
In 100 ml of toluene, 5 g (25.91 mmol) of 3,4-difluorobromobenzene, 13.39 g (155.45 mmol) of piperazine, 3.49 g (36.27 mmol) of sodium tert-butoxide, 0.24 g (0.26 mmol) of tris(dibenzylidene-acetone)dipalladium and 0.48 g (0.78 mmol) of BINAP are stirred under reflux overnight. Ethyl acetate is added, the mixture is then washed with water and the organic phase is extracted with 1N hydrochloric acid. The aqueous phase is then washed with ethyl acetate and subsequently adjusted to pH 8. Using dichloromethane, the product is extracted from the aqueous phase. The extract is then dried over magnesium sulphate, the solvent is removed and the target compound is dried under reduced pressure.

reactant | 3,4-difluorobromobenzene | 25.91 mmol, 5 g | FC=1C=C(C=CC1F)Br | C6H3BrF2
reactant | piperazine | 155.45 mmol, 13.39 g | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 36.27 mmol, 3.49 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.78 mmol, 0.48 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene-acetone)dipalladium | 0.26 mmol, 0.24 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-Difluorophenyl)piperazine | FC=1C=C(C=CC1F)N1CCNCC1 | C10H12F2N2
